US08067448B2
4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propyl-amino)-2-chlorobenzonitrile
A solution of N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyanophenylamino)butanoyl)-4-cyanobenzohydrazide (1.02 g, 1.98 mmol) in CH2Cl2 (30 mL) was added to a pre-cooled (0° C.) mixture of PPh3 (1.04 g, 3.97 mmol), iodine (1.01 g, 3.97 mmol) and Et3N (1.11 mL, 7.94 mmol). The reaction mixture was warmed to room temperature, stirred for 25 min and quenched with sat. aq. sodium thiosulfate (300 mL). The solution was extracted with CH2Cl2 (200 mL). The organic extract was washed with sat. aq. sodium thiosulfate (2×150 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a brown oil, which was purified by flash chromatography over silica gel (20% EtOAc in hexanes) to provide the title compound as a light yellow oil (984 mg, 100%): 1H NMR (400 MHz, acetone-d6, δ in ppm) 8.22 (dm, J=8.6 Hz, 2H), 8.03 (dm, J=8.8 Hz, 2H), 7.55 (d, J=8.8 Hz, 1H), 7.07 (d, J=2.4 Hz, 1H), 6.92 (dd, J=2.3, 8.8 Hz, 1H), 6.67 (d, J=9.0 Hz, 1H), 5.10 (dd, J=7.2, 9.2 Hz, 1H), 4.52 (dq, J=6.1, 7.2 Hz, 1H), 1.45 (d, J=6.1 Hz, 3H), 0.75 (s, 9H), 0.09 (s, 3H), −0.07 (s, 3H).

reactant | N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyanophenylamino)butanoyl)-4-cyanobenzohydrazide | 1.98 mmol, 1.02 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=CC(=C(C=C1)C#N)Cl)C | C25H30ClN5O3Si
reactant | PPh3 | 3.97 mmol, 1.04 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | iodine | 3.97 mmol, 1.01 g | II | I2
reactant | Et3N | 7.94 mmol, 1.11 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propyl-amino)-2-chlorobenzonitrile | 984 mg, 100% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=CC(=C(C#N)C=C1)Cl)C | C25H28ClN5O2Si
